US04235789
The progress of the bromination may be followed by thin layer chromatography or high pressure liquid chromatography so as to insure that the byproducts, 1-amino-2-bromoanthraquinone and 1-amino-4-bromoanthraquinone, represent less than 1% of the product mixture. This is essential, since hydroxylation of these two products results in 1-amino-2-hydroxyanthraquinone and 1-amino-4-hydroxyanthraquinone respectively. Both products are isolated along with the desired 1-amino-2-bromo-4-hydroxyanthraquinone and therefore give rise to a product with unsatisfactory quality.

reactant | 1-amino-2-bromoanthraquinone | NC1=C(C=CC=2C(C3=CC=CC=C3C(C12)=O)=O)Br | C14H8BrNO2
reactant | 1-amino-4-bromoanthraquinone | NC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)Br | C14H8BrNO2
reactant | 1-amino-4-hydroxyanthraquinone | NC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)O | C14H9NO3
solvent | 1-amino-2-hydroxyanthraquinone | NC1=C(C=CC=2C(C3=CC=CC=C3C(C12)=O)=O)O | C14H9NO3
product | 1-amino-2-bromo-4-hydroxyanthraquinone | NC1=C(C=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)O)Br | C14H8BrNO3
